US04065473
Preparation of 3-Chloroacetyl-2,3,4,5 tetrahydro-7,8-methylenedioxy1H-3-benzazepine
One-tenth mole, 22.7 g, of 2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine was dissolved in 200 ml of water and 200 ml of benzene added. Forty ml of a 10% solution of sodium hydroxide was added to the vigorously stirred emulsion and 17 g (0.15 mole) of chloroacetyl chloride was added dropwise. As the pH approached 5, another 10-ml portion of 10% sodium hydroxide solution was added until a total of 100 ml has been added. After all the chloroacetyl chloride had been added, the mixture, which has an acid reaction, was stirred for another 10 minutes then allowed to stand overnight at room temperature.

reactant | 2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine | C1OC2=CC3=C(CCNCC3)C=C2O1 | C11H13NO2
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroacetyl chloride | 0.15 mole, 17 g | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 200 ml | O | H2O
product | 3-Chloroacetyl-2,3,4,5 tetrahydro-7,8-methylenedioxy1H-3-benzazepine | ClCC(=O)N1CCC2=C(CC1)C=C1C(=C2)OCO1 | C13H14ClNO3
